US06388088B1
A solution of triphenylphosphine (262 mg, 1 mmol) in methylene chloride (6 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (178 mg, 1 mmol). The reaction mixture was stirred at 0° C. for 30 min and then treated with (E)-3-cyclopentyl-2-[3-fluoro-4-(5-methyl-tetrazol-1-yl)-phenyl]-acrylic acid (158 mg, 0.5 mmol). The reaction mixture was stirred for 15 min at 0° C. and then allowed to warm to 25° C. where it was stirred for 1.5 h. The reaction mixture was then treated with 2-aminothiazole (150 mg, 1.5 mmol), and the resulting suspension was stirred for 2 d at 25° C. The reaction mixture was then concentrated in vacuo to remove methylene chloride, and the residue was diluted with ethyl acetate (20 mL) and a 1N aqueous hydrochloric acid solution (30 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (1×15 mL). The combined organic extracts were successively washed with a 1N aqueous hydrochloric acid solution (1×50 mL), a saturated aqueous sodium bicarbonate solution (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 1/1 hexanes/ethyl acetate) afforded (E)-3-cyclopentyl-2-[3-fluoro-4-(5-methyl-tetrazol-1-yl)-phenyl]-N-thiazol-2-yl-acrylamide (39 mg, 20%) as a white solid: mp 158-162° C.; EI-HRMS m/e calcd for C19H19FN6OS (M+)) 398.1325, found 398.1323.

reactant | triphenylphosphine | 1 mmol, 262 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 1 mmol, 178 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (E)-3-cyclopentyl-2-[3-fluoro-4-(5-methyl-tetrazol-1-yl)-phenyl]-acrylic acid | 0.5 mmol, 158 mg | C1(CCCC1)/C=C(/C(=O)O)\C1=CC(=C(C=C1)N1N=NN=C1C)F | C16H17FN4O2
reactant | 2-aminothiazole | 1.5 mmol, 150 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-cyclopentyl-2-[3-fluoro-4-(5-methyl-tetrazol-1-yl)-phenyl]-N-thiazol-2-yl-acrylamide | 39 mg, 20% | C1(CCCC1)/C=C(/C(=O)NC=1SC=CN1)\C1=CC(=C(C=C1)N1N=NN=C1C)F | C19H19FN6OS
